US04616009
To a solution of 8 g of 2-methylindolecarboxylic acid and 6 g of 1-ethyl-2-pyrrolidinylmethylamine in 140 ml of tetrahydrofuran was added 9.5 g of dicyclohexylcarbodiimide, and the whole mixture was refluxed under heating for 1.5 hours. After cooling, the precipitated dicyclohexylurea was filtered off and the filtrate was concentrated. The resulting residue was crystallized with 20 ml of ethyl acetate and the crystals were filtered with suction and then recrystallized from ethyl acetate to give 10 g of N-(1-ethyl-2-pyrrolidinylmethyl)-2-methylindole-3-carboxamide as white crystals, melting at 132°-135° C.

reactant | 2-methylindolecarboxylic acid | 8 g | CC1(N=C2C=CC=CC2=C1)C(=O)O | C10H9NO2
reactant | 1-ethyl-2-pyrrolidinylmethylamine | 6 g | C(C)N1C(CCC1)CN | C7H16N2
reactant | dicyclohexylcarbodiimide | 9.5 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | tetrahydrofuran | 140 ml | O1CCCC1 | C4H8O
product | N-(1-ethyl-2-pyrrolidinylmethyl)-2-methylindole-3-carboxamide | 10 g | C(C)N1C(CCC1)CNC(=O)C1=C(NC2=CC=CC=C12)C | C17H23N3O
